US06562849B1
1-(2,6-Diisopropylphenyl)-3-[2-(4-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)ethyl]urea hydrochloride (hydrochloride of exemplification compound number 1-168)
1-(2,6-Diisopropylphenyl)-3-[2-(4-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)ethyl]urea was obtained by a similar procedure to that described in Example 31 using 5-[4-[6-[4-(2-aminoethyl)phenoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (0.4 g), 2,6-diisopropylphenyl isocyanate (0.14 g), N,N-diisopropylethylamine (0.18 g) and anhydrous N,N-dimethylformamide (15 ml). To a solution of the product in tetrahydrofuran (10 ml) was added 4N hydrogen chloride in ethyl acetate (5 ml) and the mixture was stirred at room temperature for 1.5 hours. To the reaction mixture was added diethyl ether (15 ml) and this mixture was stirred for 1 hour. The precipitate was isolated by filtration and washed with ethyl acetate and n-hexane to afford the title compound (0.4 g, mp 153-155° C.).

reactant | 5-[4-[6-[4-(2-aminoethyl)phenoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 0.4 g | Cl.Cl.NCCC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1
reactant | 2,6-diisopropylphenyl isocyanate | 0.14 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | N,N-diisopropylethylamine | 0.18 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-(2,6-Diisopropylphenyl)-3-[2-(4-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)ethyl]urea hydrochloride | 0.4 g | Cl.C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NCCC1=CC=C(C=C1)OC=1C=CC2=C(N(C(=N2)COC2=CC=C(C=C2)CC2C(NC(S2)=O)=O)C)C1 | InChI=1S/C40H43N5O5S.ClH/c1-24(2)31-7-6-8-32(25(3)4)37(31)43-39(47)41-20-19-26-9-15-29(16-10-26)50-30-17-18-33-34(22-30)45(5)36(42-33)23-49-28-13-11-27(12-14-28)21-35-38(46)44-40(48)51-35;/h6-18,22,24-25,35H,19-21,23H2,1-5H3,(H2,41,43,47)(H,44,46,48);1H
